US05391570
4(1,3-Benzodioxol-5-yl)-4-methoxycyclohexanone
A solution of 8-(1,3-Benzodioxol-5-yl)-1,4-dioxa-spiro[4.5]decan8-ol (5.0 g, 1.8 mmole) in 100 mL methanol with 1 mL conc. hydrochloric acid was stirred for 22 hr and the solution concentrated in vacuo. The residue was purified by chromatography on silica eluting with ethyl acetate-hexane (1:19) to give the product (70%, mp: 84°-85 ° C.).

reactant | 8-(1,3-Benzodioxol-5-yl)-1,4-dioxa-spiro[4.5]decan8-ol | 1.8 mmole, 5.0 g | O1COC2=C1C=CC(=C2)C2(CCC1(OCCO1)CC2)O | C15H18O5
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | methanol | 100 mL | CO | CH4O
product | 4(1,3-Benzodioxol-5-yl)-4-methoxycyclohexanone | 70% | O1COC2=C1C=CC(=C2)C2(CCC(CC2)=O)OC | C14H16O4
